US07217697B2
To a suspension of 4-(2-benzyloxybenzyl)-5-isopropyl-1,2-dihydropyrazol-3-one (114 mg) and acetobromo-α-D-glucose (173 mg) in acetonitrile (2 mL) was added silver carbonate (127 mg), and the mixture was stirred under shading the light at room temperature for 3 days. The reaction mixture was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/hexane=1/1) to give 5-isopropyl-4-(2-benzyloxybenzyl)-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole. To a solution of 5-isopropyl-4-(2-benzyloxybenzyl)-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole in tetrahydrofuran (1 mL) and methanol (0.5 mL) was added sodium methoxide (28% methanol solution, 50 μL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (22 mg).

reactant | 4-(2-benzyloxybenzyl)-5-isopropyl-1,2-dihydropyrazol-3-one | 114 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(NNC2C(C)C)=O)C=CC=C1 | C20H22N2O2
reactant | acetobromo-α-D-glucose | 173 mg | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | silver carbonate | 127 mg | C([O-])([O-])=O.[Ag+2]
product | 5-isopropyl-4-(2-benzyloxybenzyl)-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | C(C)(C)C1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C34H40N2O11
